US04284644
To a solution of 5-methylthiospiro[benzo[b]furan-2(3H), 1'-cyclopropane]-3-one (103.1 mg.) in dichloromethane (2.1 ml.) was added in small portions of m-chloroperbenzoic acid (215.7 mg.) under stirring. After stirring for one hour, the reaction mixture was diluted with water and extracted with chloroform. The extract was washed with aqueous solution of sodium hydrogen carbonate, aqueous solution of sodium hydrosulfite and water in that order, and after drying the solvent was removed by evaporation under reduced pressure. The residue was recrystallized from ethanol-water to give colorless needles of 5-methylsulfonylspiro[benzo[b]furan-2(3H), 1'-cyclopropane]-3-one (85 mg.). This product was identical with the compound of Example 64 in melting point and spectral data.

reactant | 5-methylthiospiro[benzo[b]furan-2(3H), 1'-cyclopropane]-3-one | 103.1 mg | CSC1=CC2=C(OC3(CC3)C2=O)C=C1 | C11H10O2S
reactant | m-chloroperbenzoic acid | 215.7 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | water | O | H2O
solvent | dichloromethane | 2.1 ml | ClCCl | CH2Cl2
product | 5-methylsulfonylspiro[benzo[b]furan-2(3H), 1'-cyclopropane]-3-one | 85 mg | CS(=O)(=O)C1=CC2=C(OC3(CC3)C2=O)C=C1 | C11H10O4S
